US07732435B2
3-(4-Chlorophenyl)-9-iodo-2-isopropyl-7H-pyrano[2,3-e]indazol-4-one
To a solution of 3-(4-chlorophenyl)-2-isopropyl-7H-pyrano[2,3-e]indazol-4-one (20 mg, 0.059 mmol) in dry N,N-dimethylformamide (2 ml) at room temperature are added potassium hydroxide (6.3 mg, 0.112 mmol) and iodine (55 mg, in three portions over 3 h, 0.217 mmol). The reaction mixture is stirred at room temperature for 20 h, then diluted with ethyl acetate and washed successively with 10% aqueous sodium thiosulfate solution (40 ml) and saturated brine (40 ml). The organic phase is dried (MgSO4), filtered and evaporated under reduced pressure. The resulting solid is triturated with n-hexane/dichloromethane to give a colourless solid that is recovered by filtration and dried.

reactant | 3-(4-chlorophenyl)-2-isopropyl-7H-pyrano[2,3-e]indazol-4-one | 0.059 mmol, 20 mg | ClC1=CC=C(C=C1)C=1C(C=2C(=C3C=NNC3=CC2)OC1C(C)C)=O | C19H15ClN2O2
reactant | potassium hydroxide | 0.112 mmol, 6.3 mg | [OH-].[K+]
reactant | iodine | 0.217 mmol, 55 mg | II | I2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-Chlorophenyl)-9-iodo-2-isopropyl-7H-pyrano[2,3-e]indazol-4-one | ClC1=CC=C(C=C1)C=1C(C=2C(=C3C(=NNC3=CC2)I)OC1C(C)C)=O | C19H14ClIN2O2
